US08754229B2
To a tube, methyl 4-amino-6-chloro-5-fluoro-3-methoxypicolinate (500 mg, 2.131 mmol), (6-methoxypyridin-3-yl)boronic acid (391 mg, 2.56 mmol), [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) (78 mg, 0.107 mmol) and Cesium Fluoride (647 mg, 4.26 mmol) were charged as solids. The tube was sealed and charged with inert atmosphere. The solids were then diluted with Dioxane (5700 μl) and Water (1400 μl). The resulting suspension was heated to 85° C. for 18 hrs. The reaction solution was poured in to a brine solution. The aqueous phase was extracted with EtOAc (3×25 mL). The combined organic layers were dried over MgSO4, filtered and concentrated under vacuum. The product was purified (flash chromatography: silica, 5-50% EtOAc in Hex 16 CV; C18 5-100% ACN in H2O 16 CV) to yield methyl 4-amino-3-fluoro-5,6′-dimethoxy-[2,3′-bipyridine]-6-carboxylate (186 mg, 0.605 mmol, 28.4% yield). ESIMS for m/z 308 (M+H)+. 1H NMR (400 MHz, DMSO-d6) δ 3.77 (s, 3H), 3.86 (s, 3H), 3.92 (s, 3H), 6.53 (s, 2H), 6.95 (dd, J=8.6, 0.8 Hz, 1H), 8.10 (ddd, J=8.6, 2.4, 1.1 Hz, 1H), 8.58 (t, J=2.0 Hz, 1H). 19F NMR (376 MHz, DMSO-d6) δ −141.20.

reactant | methyl 4-amino-6-chloro-5-fluoro-3-methoxypicolinate | 2.131 mmol, 500 mg | NC1=C(C(=NC(=C1F)Cl)C(=O)OC)OC | C8H8ClFN2O3
reactant | (6-methoxypyridin-3-yl)boronic acid | 2.56 mmol, 391 mg | COC1=CC=C(C=N1)B(O)O | C6H8BNO3
reactant | Cesium Fluoride | 4.26 mmol, 647 mg | [F-].[Cs+]
reactant | ACN | C(C)#N | C2H3N
solvent | Dioxane | 5700 μl | O1CCOCC1 | C4H8O2
solvent | Water | 1400 μl | O | H2O
solvent | brine | [Cl-].[Na+].O
catalyst | [1,1′-Bis(diphenylphosphino)ferrocene]dichloropalladium(II) | 0.107 mmol, 78 mg | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.Cl[Pd]Cl.[Fe+2]
product | methyl 4-amino-3-fluoro-5,6′-dimethoxy-[2,3′-bipyridine]-6-carboxylate | 0.605 mmol, 186 mg, 28.4% yield | NC1=C(C(=NC(=C1OC)C(=O)OC)C=1C=NC(=CC1)OC)F | C14H14FN3O4
